US06861423B2
To a cooled (5° C.) solution of 25 g (131 mmol) of 4-amino-1-benzylpiperidine and 15.36 g (152 mmol) of triethylamine in 130 mL of dichloromethane was added 28 g (18.8 mL, 133 mmol) of trifluoroacetic anhydride dropwise over a period of 30 to 45 min. at such a rate that the reaction temperature was kept between 5° C. to 10° C. After addition was completed, the reaction mixture was stirred for another 15 min. The solvent and volatile were removed under reduced pressure. The residue was dissolved in 100 mL of ethyl acetate and was then diluted with 100 mL of hexane. The solution was filtered over a cake of silica gel (50 g) and was washed with 1 liter of 50% ethyl acetate in hexane. The filtrate was concentrated under reduced pressure to give 37 g (quantitative yield) of the desired 4-trifluoroacetamido-1-benzylpiperidine, (light yellow solid). Step 2: Preparation of 4-trifluoroacetamidopiperidine

reactant | 4-amino-1-benzylpiperidine | 131 mmol, 25 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | triethylamine | 152 mmol, 15.36 g | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 133 mmol, 18.8 mL, 28 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 130 mL | ClCCl | CH2Cl2
product | 4-trifluoroacetamido-1-benzylpiperidine | 37 g, quantitative yield | FC(C(=O)NC1CCN(CC1)CC1=CC=CC=C1)(F)F | C14H17F3N2O
